US07964645B2
Preparation of rac-N-({[(2-Chloro-5-trifluoromethyl-phenyl)-phenyl-methyl]-carbamoyl}-methyl)-3-phenyl-propionamide
Prepared in analogy to example 1.1 from (3-phenyl-propionylamino)-acetic acid (CA [56613-60-6]) and rac-C-(2-Chloro-5-trifluoromethyl-phenyl)-C-phenyl-methylamine hydrochloride (CA [13954-13-7]).

reactant | (3-phenyl-propionylamino)-acetic acid | C1(=CC=CC=C1)CCC(=O)NCC(=O)O | C11H13NO3
reactant | rac-C-(2-Chloro-5-trifluoromethyl-phenyl)-C-phenyl-methylamine hydrochloride | Cl.ClC1=C(C=C(C=C1)C(F)(F)F)C(C1=CC=CC=C1)N
product | rac-N-({[(2-Chloro-5-trifluoromethyl-phenyl)-phenyl-methyl]-carbamoyl}-methyl)-3-phenyl-propionamide | ClC1=C(C=C(C=C1)C(F)(F)F)C(C1=CC=CC=C1)NC(=O)CNC(CCC1=CC=CC=C1)=O | C25H22ClF3N2O2
